US07855215B2
[6-[[1-[[4-(4-Morpholinyl)-3-(trifluoromethyl)phenylamino]carbonyl]-1H-indol-5-yl]oxy]-4-pyrimidinyl]acetamide
A mixture of 2,3-dihydro-5-(6-chloro-4-pyrimidinyloxy)-N-[4-(4-morpholinyl)-3-(trifluoromethyl)phenyl]-1H-indole-1-carboxamide (Intermediate IIa; 1.30 g, 2.5 mmol), acetamide (0.22 g, 3.75 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis[diphenylphosphine] (90 mg, 0.15 mmol), tris(dibenzylideneacetone)dipalladium (45 mg, 0.05 mmol), caesium carbonate (1.14 g, 3.5 mmol) in dry dioxan (10 mL) is heated under an argon atmosphere at 70° C. for 15 h. The cooled suspension is filtered and the residue is dissolved in DMF (50 mL). The resulting solution is filtered (hyflo) and the solvent is evaporated off under reduced pressure to afford the crude product which is purified by preparative HPLC (VP Reprosil 100 Å-5 μm; eluent 0.1% TFA/H2O→0.09% TFA/CH3CN) and neutralised with saturated aqueous NaHCO3 to give the title compound as a colourless crystalline solid, m.p. 272-275° C.

reactant | 2,3-dihydro-5-(6-chloro-4-pyrimidinyloxy)-N-[4-(4-morpholinyl)-3-(trifluoromethyl)phenyl]-1H-indole-1-carboxamide | 2.5 mmol, 1.30 g | ClC1=CC(=NC=N1)OC=1C=C2CCN(C2=CC1)C(=O)NC1=CC(=C(C=C1)N1CCOCC1)C(F)(F)F | C24H21ClF3N5O3
reactant | acetamide | 3.75 mmol, 0.22 g | C(C)(=O)N | C2H5NO
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis[diphenylphosphine] | 0.15 mmol, 90 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | caesium carbonate | 3.5 mmol, 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxan | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [6-[[1-[[4-(4-Morpholinyl)-3-(trifluoromethyl)phenylamino]carbonyl]-1H-indol-5-yl]oxy]-4-pyrimidinyl]acetamide | N1(CCOCC1)C1=C(C=C(C=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=N1)CC(=O)N)C(F)(F)F | C26H23F3N6O4
